US08217069B2
4-Chloro-2-methoxy-5-nitroaniline
To a suspension of 4-chloro-2-methoxyaniline (1.88 g) in concentrated sulfuric acid (18 mL) was added guanidine nitrate (1.46 g) under ice-cooling over 15 minutes, and the mixture was stirred at the same temperature for 15 minutes. The reaction mixture was poured into a saturated aqueous sodium carbonate solution cooled in ice, and the precipitated crystals were collected by filtration. The crystals were dissolved in ethyl acetate, and the solution was dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give the title compound (1.94 g).

reactant | 4-chloro-2-methoxyaniline | 1.88 g | ClC1=CC(=C(N)C=C1)OC | C7H8ClNO
reactant | guanidine nitrate | 1.46 g | [N+](=O)(O)[O-].NC(=N)N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | sulfuric acid | 18 mL | S(O)(O)(=O)=O | H2O4S
product | 4-Chloro-2-methoxy-5-nitroaniline | 1.94 g | ClC1=CC(=C(N)C=C1[N+](=O)[O-])OC | C7H7ClN2O3
